US07786143B2
Step 2: 1-Isopropyl-4-(4-phenyl-thiazol-2-yl)-piperidine
A mixture of 24.5 mg (0.1 mmol) 4-(4-phenyl-thiazol-2-yl)-piperidine hydrobromide, excess acetone and excess sodium triacetoxyborohydride in 1 ml THF and 20 μl acetic acid was stirred at room temperature for 16 h. After addition of 0.2 ml water, 0.2 ml methanol and 0.15 ml NEt3 the mixture was purified by preparative HPLC on reversed phase eluting with a gradient of acetonitrile/water (0.1% NEt3) to yield after evaporation of the product fractions 12.8 mg (45 %) of the title compound. (m/e): 287.3 (MH+; 100%).

reactant | 4-(4-phenyl-thiazol-2-yl)-piperidine hydrobromide | 0.1 mmol, 24.5 mg | Br.C1(=CC=CC=C1)C=1N=C(SC1)C1CCNCC1
reactant | acetone | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | 0.2 ml | O | H2O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 20 μl | C(C)(=O)O | C2H4O2
solvent | NEt3 | 0.15 ml | CCN(CC)CC | C6H15N
solvent | methanol | 0.2 ml | CO | CH4O
product | 1-Isopropyl-4-(4-phenyl-thiazol-2-yl)-piperidine | C(C)(C)N1CCC(CC1)C=1SC=C(N1)C1=CC=CC=C1 | C17H22N2S
